US06437147B1
At 0° C., a solution of of 4-(4-chlorophenyl)-N-methylbutyramide (3.80 g, 18.0 mmol) in tetrahydrofuran (60 ml) was added to a suspension of sodium borohydride (1.60 g, 43.1 mmol) in THF (60 ml). The mixture was stirred for 20 min at 0° C. A solution of iodine (4.6 g, 18.0 mmol) in THF (100 ml) was added dropwise. After the addition was finished, the reaction mixture was warmed to 70° C. It was stirred for 16 hours at this temperature. It was cooled to 0° C. Methanol (100 ml) was added dropwise. The solvents were removed in vacuo. The residue was dissolved in a 20% aqueous solution of sodium hydroxide (160 ml) and tert-butyl methyl ether (200 ml). The phases were separated. The aqueous phase was extracted with tert-butyl methyl ether (3×70 ml). The combined organic layers were dried over magnesium sulphate. The solvent was removed in vacuo. The crude product was purified by flash chromatography on silica (90 g), using DCM/methanol/25% aqueous ammonia as eluent, to give 820 mg of N-[4-(4-chlorophenyl)butyl]-N-methylamine.

reactant | 4-(4-chlorophenyl)-N-methylbutyramide | 18.0 mmol, 3.80 g | ClC1=CC=C(C=C1)CCCC(=O)NC | C11H14ClNO
reactant | sodium borohydride | 43.1 mmol, 1.60 g | [BH4-].[Na+]
reactant | iodine | 18.0 mmol, 4.6 g | II | I2
reactant | Methanol | 100 ml | CO | CH4O
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | THF | 60 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | N-[4-(4-chlorophenyl)butyl]-N-methylamine | 820 mg | ClC1=CC=C(C=C1)CCCCNC | C11H16ClN
